US06855710B2
b) 4-phthalimidomethyl-benzoic acid
337 mg (1.0 mmol) of tert.butyl 4-phthalimidomethyl-benzoate are stirred in 3 ml of trifluoroacetic acid for 45 minutes at ambient temperature. Then the solvent is eliminated in vacuo.

reactant | tert.butyl 4-phthalimidomethyl-benzoate | 1.0 mmol, 337 mg | C1(C=2C(C(N1CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)=CC=CC2)=O | C20H19NO4
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-phthalimidomethyl-benzoic acid | C1(C=2C(C(N1CC1=CC=C(C(=O)O)C=C1)=O)=CC=CC2)=O | C16H11NO4
